US07615558B2
5-Amino-1-(2-ethylphenyl)-1H-pyrazole-4-carbonitrile
A solution of 3.0 g (17.0 mmol) of 2-ethylphenylhydrazine hydrochloride and 2.12 g (17.0 mmol) of ethoxymethylenemalononitrile in 36 ml of ethanol is mixed with 7.1 ml (51.1 mmol) of triethylamine and heated at 60° C. until the reaction is complete according to a TLC check (about 30 min). For working up, the solvent is stripped off, and the residue is taken up in dichloromethane, washed with saturated sodium bicarbonate solution and dried over sodium sulphate. Concentration results in a crude product which is purified by column chromatography on silica gel (mobile phase dichloromethane with 0-10% methanol). 3.05 g (83.5% of theory) of the desired product are obtained.

reactant | 2-ethylphenylhydrazine hydrochloride | 17.0 mmol, 3.0 g | Cl.C(C)C1=C(C=CC=C1)NN
reactant | ethoxymethylenemalononitrile | 17.0 mmol, 2.12 g | C(C)OC=C(C#N)C#N | C6H6N2O
reactant | triethylamine | 51.1 mmol, 7.1 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 36 ml | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-Amino-1-(2-ethylphenyl)-1H-pyrazole-4-carbonitrile | NC1=C(C=NN1C1=C(C=CC=C1)CC)C#N | C12H12N4
